US08067613B2
N-(2-amino-3-carbamoylphenyl)-6-(oxazol-5-yl)nicotinamide
A solution of EXAMPLE 50A (60.0 mg, 0.316 mmol) in a mixture of pyridine (1.5 mL) and N,N-dimethylformamide (1.5 mL) was treated with 1,1′-carbonyldiimidazole (56.3 mg, 0.347 mmol) at 45° C. for 2 hours. After cooling, 2,3-diaminobenzamide (HCl salt) (70.7 mg, 0.316 mmol) was added and the mixture stirred at room temperature for 5 hours. After concentration, the residue was treated with 20% brine and ethyl acetate. The solid was filtered, washed with ethyl acetate and water, and dried under vacuum to provide the title compound. This material was used in the next step without further purification.

reactant | 1,1′-carbonyldiimidazole | 0.347 mmol, 56.3 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-diaminobenzamide | 0.316 mmol, 70.7 mg | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-amino-3-carbamoylphenyl)-6-(oxazol-5-yl)nicotinamide | NC1=C(C=CC=C1C(N)=O)NC(C1=CN=C(C=C1)C1=CN=CO1)=O | C16H13N5O3
